US04396542
(1RS,2R,3R,5E)-1-cyano-2-hydroxy-3-methyl 1-methylamino-5-heptene: flow-chart 2, formula Va [Z=trans CH3 -CH=CH-CH2 -; R1 =CH3 ]
0.52 g (7.9 mMol) KCN and 0.54 g (7.9 mMol) methylamine hydrochloride are added with stirring at 20° C. to 1.1 g (7.7 mMol) of (2R,3R,5E)-2-hydroxy-3-methyl-5-hepten-1-aldehyde dissolved in 50 ml methanol. After addition of 7.5 ml water the reaction mixture is stirred for a further two hours at room temperature and then concentrated to 1/2 volume on a rotary evaporator at a water-bath temperature of maximally 40° C. The obtained solution is shaken with 300 ml methylene chloride and 200 ml water and the separated organic phase is shaken with a further 100 ml water. The aqueous phases are extracted one after the other using 2×100 ml methylene chloride, the methylene chloride fractions are combined with the first organic extract, and the whole is dried over sodium sulfate, filtered through a G3 -frit and evaporated to yield the title compound as a diastereomeric mixture. This is used directly without further purification.

reactant | KCN | 7.9 mMol, 0.52 g | [C-]#N.[K+]
reactant | methylamine hydrochloride | 7.9 mMol, 0.54 g | Cl.CN
reactant | (2R,3R,5E)-2-hydroxy-3-methyl-5-hepten-1-aldehyde | 7.7 mMol | O[C@@H](C=O)[C@@H](C\C=C\C)C | C8H14O2
reactant | water | 7.5 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | (1RS,2R,3R,5E)-1-cyano-2-hydroxy-3-methyl 1-methylamino-5-heptene | C(#N)C([C@@H]([C@@H](C\C=C\C)C)O)NC | C10H18N2O
